US04311700
11-Chloroacetyl-6-methyl-2-phenyl-5,6-dihydropyrimido[4,5-b][1,5]benzodiazepin-5-one
1.6 ml (20 mmols) of chloroacetyl chloride are added dropwise at room temperature to a suspension of 3 g (10 mmols) of 6-methyl-2-phenyl-5,6-dihydropyrimido[4,5-b][1,5]benzodiazepin-5-one in 30 ml of absolute toluene, and the mixture is then heated under reflux for 3 hours. After cooling, the precipitate which has been deposited is filtered off, and the filtrate is evaporated. The residue is stirred thoroughly with diethyl ether; yield: 3.3 g (86%) with m.p. 189° to 190° C. (from 2-butanone).

reactant | chloroacetyl chloride | 20 mmols, 1.6 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 6-methyl-2-phenyl-5,6-dihydropyrimido[4,5-b][1,5]benzodiazepin-5-one | 10 mmols, 3 g | CN1C(C2=C(NC3=C1C=CC=C3)N=C(N=C2)C2=CC=CC=C2)=O | C18H14N4O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 11-Chloroacetyl-6-methyl-2-phenyl-5,6-dihydropyrimido[4,5-b][1,5]benzodiazepin-5-one | ClCC(=O)N1C2=C(C(N(C3=C1C=CC=C3)C)=O)C=NC(=N2)C2=CC=CC=C2 | C20H15ClN4O2
